US06602889B1
5-Tetrazol-5-yl-1H-indole (1a)
A mixture of 5-cyano-1H-indole (88 g), triethylamine hydrochloride (225 g), and sodium azide (150 g) was heated in 1,2-dimethoxyethane (DME) at reflux temperature for 48 hours. The solvent was evaporated in vaciio and the residue was dissolved in ethyl acetate (500 mL) and water (500 mL). pH was adjusted to 10 by addition of concentrated aqueous NaOH solution. The aqueous phase was separated and pH was adjusted to 4 by addition of acetic acid. The precipitated crystalline title compound 1a was filtered off and subsequently dried in vacuo. Yield 82 g, mp 205° C.

reactant | 5-cyano-1H-indole | 88 g | C(#N)C=1C=C2C=CNC2=CC1 | C9H6N2
reactant | triethylamine hydrochloride | 225 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 150 g | [N-]=[N+]=[N-].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 5-Tetrazol-5-yl-1H-indole | N1N=NN=C1C=1C=C2C=CNC2=CC1 | C9H7N5
